US08252820B2
M. Methanesulfonic acid 2-[3-benzyloxy-4-(5-benzyloxymethyl-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-5-fluorobenzyl]-4-methylphenyl ester
Zinc dust (200 mg, 3.08 mmol) is added to a flask and heated with a heat gun under high vacuum to remove moisture. DMF (1.0 mL, freshly distilled) is added under argon. 1,2-Dibromoethane (0.02 mL) is added and heated with heat gun until bubbling is observed. After it is cooled to RT, TMSCl (0.02 mL) is added and the mixture is stirred at RT for 20 min. Then a solution of methanesulfonic acid 2-iodomethyl-5-methylphenyl ester (224 mg, 0.688 mmol) in DMF (0.6 mL, freshly distilled) is added and the mixture is heated at 40° C. for 45 min. Then it is cooled to RT. Pd2(dba)3 (20 mg, 0.02 mmol), P(o-tolyl)3 (28.4 mg, 0.10 mmol) is added followed by a solution of 5-(2-benzyloxy-6-fluoro-4-iodophenyl)-2-benzyloxymethyl-1,1-dioxo-1,2,5-thiadiazolidin-3-one (200 mg, 0.344 mmol) in DMF (1.4 mL, freshly distilled). The mixture is stirred at RT for 2 h. ETOAc is added and it is filtered through Celite. The filtrate is then washed with 1N HCl solution, water and brine. It is then dried and concentrated. The residue is purified to give the title compound.

reactant | methanesulfonic acid 2-iodomethyl-5-methylphenyl ester | 0.688 mmol, 224 mg | ICC1=C(C=C(C=C1)C)OS(=O)(=O)C | C9H11IO3S
reactant | P(o-tolyl)3 | 0.10 mmol, 28.4 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | 5-(2-benzyloxy-6-fluoro-4-iodophenyl)-2-benzyloxymethyl-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.344 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)I)F)N1CC(N(S1(=O)=O)COCC1=CC=CC=C1)=O | C23H20FIN2O5S
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | Zinc | 3.08 mmol, 200 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 0.02 mmol, 20 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methanesulfonic acid 2-[3-benzyloxy-4-(5-benzyloxymethyl-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-5-fluorobenzyl]-4-methylphenyl ester | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C=CC(=C2)C)OS(=O)(=O)C)C=C(C1N1S(N(C(C1)=O)COCC1=CC=CC=C1)(=O)=O)F | C32H31FN2O8S2
